US08106052B2
6-(3-Picolinyloxy)-2-cyanobenzothiazole:
To a solution of 2-cyano-6-hydroxybenzothiazole (0.39 g, 2.2 mmol) in acetone (50 mL) was added 3-(bromomethyl)pyridine hydrobromide (0.7 g, 2.76 mmol), cesium carbonate (2.15 g, 6.6 mmol), and a catalytic amount of sodium iodide. After adding 3 A molecular sieves, the yellow suspension was refluxed for 40 h under nitrogen. After cooling down the mixture and filtering the solids, the filtrate was concentrated and the residue was purified by silica gel chromatography using 50%-100% ethyl acetate in heptane. A yellowish solid was obtained in 61% yield. MS (ESI+): m/z 267.64 (M+H)+; calc'd: 268.05.

reactant | 2-cyano-6-hydroxybenzothiazole | 2.2 mmol, 0.39 g | C(#N)C=1SC2=C(N1)C=CC(=C2)O | C8H4N2OS
reactant | 3-(bromomethyl)pyridine hydrobromide | 2.76 mmol, 0.7 g | Br.BrCC=1C=NC=CC1
reactant | cesium carbonate | 6.6 mmol, 2.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 6-(3-Picolinyloxy)-2-cyanobenzothiazole | 61% yield | N1=CC(=CC=C1)COC1=CC2=C(N=C(S2)C#N)C=C1 | C14H9N3OS
